US07214673B2
2-Methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine hydrochloride
Combine a suspension of 2-methyl-5-(2-nitroanilino)thiazole-4-nitrile (36 g,; 138.5 mmol) in isopropanol (400 ml) in a 2.0 liter 3-necked RB flask equipped with a reflux condenser, thermometer, magnetic stirrer bar and heat with stirring to 65° C. (orange solution obtained). Add tin (II) chloride hydrate (78.7 g; 415.4 mmol) in hydrochloric acid (400 ml; 5M) and heat the resulting solution at reflux. After 2.5 h., cool the reaction to 15° C., filter the suspension, wash with isopropanol/water (2:1) and dry at 50° C. under reduced pressure to leave a yellow solid (36.7 g). Evaporate the filtrate to around 200 mL to form a yellow slurry. Filter the slurry again and dry at 50° C. under reduced pressure to leave a yellow solid (10 g). Combine the solid and suspend in 1 N HCl (700 mL) and heat to reflux for 20 min, cool to 15° C. Filter the resulting yellow slurry and dry at 50° C. under reduced pressure to leave a yellow solid (32.4 g, 88%): mass spectrum (m/e): 231 (M+1); 1HNMR(300 MHz, DMSO, ppm): 2.5 (s, 3H), 6.78 (dd, 1H), 6.85 (dd, 1H), 6.98 (t, 1H), 7.02 (t, 1H), 8.80 (s, 1H), 9.10 (s, 1H), 9.98 (s, 1H), 10.78 (s, 1H). 13CNMR(75 MHz, DMSO, ppm): 19.6, 120.1, 120.8, 123.6, 125.8, 127.8, 129.2, 137.6, 154.4, 159.3, 160.4. Formula C11H11N4S.

reactant | 2-methyl-5-(2-nitroanilino)thiazole-4-nitrile | 138.5 mmol, 36 g | CC=1SC(=C(N1)C#N)NC1=C(C=CC=C1)[N+](=O)[O-] | C11H8N4O2S
reactant | tin (II) chloride hydrate | 415.4 mmol, 78.7 g | O.[Sn](Cl)Cl
solvent | isopropanol | 400 ml | C(C)(C)O | C3H8O
solvent | hydrochloric acid | 5M, 400 ml | Cl | ClH
product | 2-Methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine hydrochloride | 36.7 g | Cl.CC1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N | InChI=1S/C11H10N4S.ClH/c1-6-13-9-10(12)14-7-4-2-3-5-8(7)15-11(9)16-6;/h2-5,15H,1H3,(H2,12,14);1H
